US05814140
C.I. Pigment Yellow 12:
The pigment suspension was prepared similarly to C.I. Pigment Yellow 13 by coupling 80.4 g of tetrazotized 3,3'-dichlorobenzidine (44.7 g of sodium nitrite) with 118 g of acetoacetanilide.

reactant | C.I. Pigment Yellow 13 | CC1=CC(=C(C=C1)NC(=O)C(C(=O)C)N=NC2=C(C=C(C=C2)C3=CC(=C(C=C3)N=NC(C(=O)C)C(=O)NC4=C(C=C(C=C4)C)C)Cl)Cl)C | C36H34Cl2N6O4
reactant | 3,3'-dichlorobenzidine | 80.4 g | ClC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)Cl | C12H10Cl2N2
reactant | acetoacetanilide | 118 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
product | C.I. Pigment Yellow 12 | CC(=O)C(C(=O)NC1=CC=CC=C1)N=NC2=C(C=C(C=C2)C3=CC(=C(C=C3)N=NC(C(=O)C)C(=O)NC4=CC=CC=C4)Cl)Cl | C32H26Cl2N6O4
